US04810699
2,2,2-Trifluoroethanol (60 g, 0.6 mol) was added dropwise to a stirred mixture of sodium hydride (12 g of a 60% dispersion, 0.3 mol) in 500 mL of DMF. After stirring for 20 minutes, 4-chloro-3-nitrotoluene (51.3 g, 0.3 mol) was added and the reaction heated at 150° C. for 16 hours. The reaction was cooled, poured into ice cold 5% HCl. The resulting precipitate was collected by filtration, dried to give 64 g of 5-methyl-2-(2,2,2-trifluoroethoxy)nitrobenzene.

reactant | 2,2,2-Trifluoroethanol | 0.6 mol, 60 g | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-3-nitrotoluene | 0.3 mol, 51.3 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 5-methyl-2-(2,2,2-trifluoroethoxy)nitrobenzene | 64 g | CC=1C=CC(=C(C1)[N+](=O)[O-])OCC(F)(F)F | C9H8F3NO3
